Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
Cipro / ACE Inhibitors / Cephalosporins / Latex, Natural Rubber 
/ metronidazole / Aggrenox / Bactrim / Sulfa (Sulfonamide 
Antibiotics) / gluten
 
Attending: ___.
 
Chief Complaint:
R knee laceration
 
Major Surgical or Invasive Procedure:
R knee suture of laceration

 
History of Present Illness:
Ms ___ is a ___ yo F with PMH of SLE, HTN, CKD with bilateral
ureteral stents exchanged multiple time at ___ who was
transferred from ___ after having a fall
with a knee laceration. Apparently she tripped on a step and cut
her right knee open and there was concern at ___ that it may
involve her joint so she was sent here for orthopedic 
evaluation.

She reports last ___ she had a similar fall only she cut her
left leg and since then she had been in and out of rehabs and 
had
cellulitis and an infection of that leg as well as a sacral 
ulcer
requiring a wound vac. She has been out of rehab since ___
though she has had home health ___ and wound care.

Overall she has been feeling well and states the fall was a trip
and she did not experience any dizziness or weakness preceding
it. At OSH, pt was given clindamycin and tetanus update.
Noncontrast head CT and neck CT unremarkable. Pt transferred for
orthopedic eval d/t concern for intra-articular extension of her
laceration into her right TKR. She reports she has bilateral
ureteral stents and gets these exchanged frequently at ___. She
reports she frequently gets UTIs. In the ED there was concern 
for
a UTI and she did receive ceftriaxone because of her UA. She
reports no urinary symptoms and has chronic incontinence. No
fevers.  She was seen by orthopedics in who recommended closure
per ED and 10 days of antibiotics. She was also seen by ___ who
felt her safe to discharge home though they initially thought 
she
may benefit from rehab she apparently does not have insurance
coverage for this. She was admitted for concern over functional
status and possible UTI. 

In the ED, initial VS were: T96.8, HR83, BP 91/64, RR16, 
SaO2100%
RA 
 
Exam notable for:
~20cm laceration over right knee
Small hematoma over right greater trochanter

ECG:
Labs showed:
Imaging showed:
1. Suboptimal visualization of soft tissues due to streak
artifact. Within
this limitation, superficial skin defect consistent with
laceration anterior
to the proximal tibia without joint or bone involvement.
2. No subcutaneous emphysema.

Consults:
Laceration to knee. Unable to probe to joint. On exam no joint
involvement. Ct with no involvement of joint. Patient needs
thorough washout and closure. We recommend ___ days of
antibiotics. Closure per ED team.

Patient received:
___ 07:20 PO Acetaminophen 650 mg  
___ 16:17 PO/NG Furosemide 40 mg  
___ 16:17 PO/NG Gabapentin 300 mg 
___ 16:17 PO/NG PredniSONE 5 mg 
___ 16:17 PO Metoprolol Succinate XL 25 mg   
___ 20:46 PO/NG Clindamycin 300 mg   
___ 20:46 IV CefTRIAXone    
___ 21:11 PO/NG Sodium Bicarbonate 650 mg 
___ 21:11 PO/NG Gabapentin 300 mg  
___ 21:12 IV CefTRIAXone 1 gm 

Transfer VS were: T98.3, HR68, BP 108/57, RR18, SaO2 98% RA 

On arrival to the floor, patient reports no pain and endorses 
the
above history.

 
Past Medical History:
-SLE
-CKD with chronic bilateral uretral stents
-HTN
-Afib on ___
 
Social History:
___
Family History:
-Brother with ___ cancer
-Brother with Lung cancer

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VS:T98.5 PO BP104/62 HR96 RR18 SaO295%Ra 
GENERAL: NAD
HEENT: AT/NC, spares thin hair, EOMI, PERRL, anicteric sclera,
pink conjunctiva, MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: protuberant, nondistended, nontender in all quadrants,
no rebound/guarding
EXTREMITIES: right with knee immobilizer in place, wound 
dressed,
left with chronic wound on mid calf covered in gauze (c/d/I),
Bilaterally with severe pitting edema. 
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: sacrum with pressure ulcer, dressing clean dry and intact

========================
DISCAHRGE PHYSICAL EXAM
========================
GENERAL: NAD
HEENT: AT/NC, spares thin hair, EOMI, PERRL, anicteric sclera,
pink conjunctiva, MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: protuberant, nondistended, nontender in all quadrants,
no rebound/guarding
EXTREMITIES: large right knee laceration with sutures clean, dry 
and intact. Bruising appreciated around laceration. good ROM of 
right knee and no appreciable effusion or hematoma, wound 
dressed
left with chronic wound on mid calf covered in gauze (c/d/I),
Bilaterally with severe pitting edema. 
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: sacrum with pressure ulcer, dressing clean dry and intact
 
Pertinent Results:
=========================
ADMISSION/DISCHARGE LABS
=========================
___ 05:32PM BLOOD WBC-8.8 RBC-3.60* Hgb-10.0* Hct-32.0* 
MCV-89 MCH-27.8 MCHC-31.3* RDW-16.7* RDWSD-53.0* Plt ___
___ 05:32PM BLOOD Neuts-85.8* Lymphs-5.3* Monos-8.0 
Eos-0.1* Baso-0.2 NRBC-0.5* Im ___ AbsNeut-7.57* 
AbsLymp-0.47* AbsMono-0.71 AbsEos-0.01* AbsBaso-0.02
___ 05:32PM BLOOD Glucose-137* UreaN-79* Creat-1.8* Na-137 
K-4.4 Cl-101 HCO3-23 AnGap-13
___ 05:44PM BLOOD Lactate-1.9

==================
IMAGING/PROCEDURES
==================
___ Right Knee X-ray
No fracture or dislocation is seen. Right knee arthroplasty 
hardware appears well position.  There is degenerative spurring 
of the patella.  Small joint effusion.  There is normal osseous 
mineralization.  No suspicious lytic or sclerotic lesions are 
identified. 
  
IMPRESSION:  
No acute fracture. 

___ CT R knee
IMPRESSION:  
1. Suboptimal visualization of soft tissues due to streak 
artifact.  Within this limitation, superficial subcutaneous 
defect consistent with laceration anterior to the proximal tibia 
without joint or bone involvement. 
2. Small suprapatellar joint effusion. 

___ Chest X-ray
IMPRESSION:  
Marked cardiomegaly, congestion with mild edema, small pleural 
effusions. 

 
Brief Hospital Course:
PLEASE NOTE: THERE IS AN ERROR IN DISCHARGE WORKSHEET. PATIENT 
DID NOT HAVE JOINT WASHOUT, ONLY LACERATION WASHED OUT. 
ORTHOPEDICS FELT NO JOINT CAPSULE INVOLVMENT.

========
SUMMARY
========
Mrs. ___ is a ___ year old woman with a past medical history 
of lupus, hypertension, CKD, paroxysmal A. fib on apixaban, PMH 
of SLE, HTN, right total knee arthroplasty, CKD from chronic 
obstruction s/p bilateral ureteral stents exchanged multiple 
time at ___ who was transferred after having a fall with a knee 
laceration. Patient was transferred to ___ due to concern for 
involvement of joint hardware given history of right total knee 
arthroplasty and history of systemic anticoagulation. She was 
evaluated by orthopedics in the emergency room and we are not 
concerned for joint involvement. Laceration was washed out and 
sutured by the emergency room physician. Patient was initially 
started on clindamycin infection but was discontinued as 
laceration was washed out well and risk of C. difficile and GI 
upset from antibiotics are not insignificant. On routine 
laboratory check, patient was also found to have a UA notable 
for blood, large leukocytes, and many bacteria concerning for a 
UTI. However, on discussion with patient and patient's primary 
care physician, patient has a history of asymptomatic 
bacteriuria and has never been symptomatic including on this 
admission. Patient received 1 dose of ceftriaxone in the 
emergency room but antibiotics were discontinued upon arrival to 
the floor. Patient was evaluated by physical therapy who 
recommended that patient safe to go home with 24-hour home 
services.

ACUTE ISSUES:
===============
#Right knee laceration
#Impaired Mobility: Seen by orthopedics in the emergency room 
and not felt to have joint involvement. Laceration washed out 
and sutured by emergency room physician. Received tetanus at 
OSH. Patient with good range of motion and ambulating on knee. 
No evidence of joint effusion or hematoma. Patient was started 
on clindamycin initially but later discontinued as not felt to 
be needed and risk of C. difficile and GI upset with 
antibiotics. Evaluated by physical therapy who recommended home 
with 24-hour services. Patient has a walker and a ramp to get 
into her home. Schedule follow-up appointment with primary care 
physician on ___ for wound evaluation. Should have sutures 
removed in 2 weeks (tentative date ___

#Asymptomatic bacteriuria
#Ureteral stents: Patient states she has been treated frequently 
for UTIs and is always incontinent of urine. She states that her 
UA frequently have bacteria but she never has any symptoms 
including fevers, dysuria, urinary frequency. UA with lg Leuks 
and many bacteria. Received a dose of ceftriaxone in ED but 
discontinued upon arrival to the floor given low concern for 
UTI. Spoke with primary care physician office stated that 
patient frequently has positive UAs that have not been treated 
in the past. One indication to treat asymptomatic bacteriuria in 
this patient's case would be if she had recent instrumentation, 
however, patient states she last had ureteral stents replaced 
more than 1 month ago ~ ___.

CHRONIC ISSUES:
===============
#Atrial fibrillation: Anti-coagulated and asymptomatic. 
Continued home metop and apixiban. No signs of hematoma over 
right knee.

#CKD: Creatinine is 1.8 on admission which is consistent with 
patient's baseline of 1.6-1.9.

#Sacral Ulcer, lower extremity ulcers: Wound consulted for care 
of these wounds and recommendations will be left in page 1.

=====================
TRANSITIONAL ISSUES
=====================
[] Right knee laceration: Patient had laceration washed out and 
sutured on ___. Joint with good range of motion and no sign of 
hematoma at discharge. Plan at discharge was to return to 
primary care physician for wound evaluation and possible suture 
removal. If patient felt to need a second orthopedic evaluation, 
can refer as outpatient. Patient also notified to call or return 
to the emergency room if develops swelling, pain, or erythema 
that would be concerning for developing hematoma or infection.
[] Asymptomatic bacteriuria: Patient has a history of 
obstructive nephropathy status post bilateral ureteral stents 
and asymptomatic bacteriuria which are managed by outpatient 
urologist. Patient was asymptomatic despite UA findings with no 
recent instrumentation that would justify treating bacteriuria. 
Please watch closely and treat if developed symptoms.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Febuxostat 40 mg PO DAILY 
3. Furosemide 60 mg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Digoxin 0.125 mg PO EVERY OTHER DAY 
6. cevimeline 30 mg oral DAILY 
7. Gabapentin 300 mg PO TID 
8. Vitamin D 5000 UNIT PO DAILY 
9. Acidophilus Probiotic Complex 
(L.acidophilus,helvet-B.bifidum) 250 million cell oral DAILY 
10. Vitamin A 8000 UNIT PO DAILY 
11. Apixaban 2.5 mg PO BID 
12. Pantoprazole 40 mg PO Q24H 
13. Cetirizine 10 mg PO DAILY 
14. L-Arginine(alpha-ketoglutarat) (arginine oxoglurate) 500  
oral DAILY 
15. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acidophilus Probiotic Complex 
(L.acidophilus,helvet-B.bifidum) 250 million cell oral DAILY  
2.  Apixaban 2.5 mg PO BID  
3.  Cetirizine 10 mg PO DAILY  
4.  cevimeline 30 mg oral DAILY  
5.  Digoxin 0.125 mg PO EVERY OTHER DAY  
6.  Febuxostat 40 mg PO DAILY  
7.  Furosemide 60 mg PO DAILY  
8.  Gabapentin 300 mg PO TID  
9.  L-Arginine(alpha-ketoglutarat) (arginine oxoglurate) 500  
oral DAILY  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Multivitamins W/minerals 1 TAB PO DAILY  
12.  Pantoprazole 40 mg PO Q24H  
13.  PredniSONE 5 mg PO DAILY  
14.  Vitamin A 8000 UNIT PO DAILY  
15.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSIS
==================
Right knee laceration
Asymptomatic bacteriuria
Mechanical Fall Down Stairs Initial Encounter

===================
SECONDARY DIAGNOSIS
===================
Chronic kidney disease
Paroxysmal Atrial fibrillation on apixaban

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
DISCHARGE WORKSHEET TEMPLATE 
==============================
DISCHARGE INSTRUCTIONS

Dear ___,

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
You were admitted to the hospital because you fell and had a 
large cut on your right knee that required stitches.  Given that 
you have a knee replacement and on a blood thinner, you were 
seen by the orthopedic specialist who determined that there was 
no damage or bleeding into your joint hardware.  You were also 
found to have bacteria in your urine but after speaking with 
your primary care physician, this is a normal finding for you 
and does not represent an infection.

WHAT SHOULD I DO WHEN I GO HOME?
You should continue take all your medications as prescribed.  We 
have scheduled an appointment for you to see her primary care 
physician on ___ to check your knee.  Please continue to use 
her walker at home to prevent from falling.  We will make sure 
you have services at home that will help with getting you legs 
stronger and preventing future falls.

You will have home nursing check on your knee. 

WHEN SHOULD I COME BACK TO THE HOSPITAL?
Please come call your doctor if you have fevers, chills, pain 
with urination, frequent urination that would be concerning for 
a urinary tract infection.  Please call your doctor or return to 
the hospital if your right knee becomes more swollen, warm, red, 
swollen, or painful.

It was a pleasure caring for you, and we wish you all the best.

Sincerely,
Your ___ team

 
Followup Instructions:
___